US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynyl-cyclohexan-1-one (0.22 g, 0.7 mmol) and 2-bromo-5-cyanothiophene (0.13 g, 0.7 mmol) in triethylamine (5 mL) under an argon atmosphere were added tetrakis(triphenylphosphine)palladium(0) (0.034 g, 4%) and copper(I) iodide (0.007 g, 6%), and the mixture was heated at 85°-90° C. for 2 h. Ammonium chloride was added and the mixture was extracted three times with dichloromethane, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 2:8 ethyl acetate:hexanes, provided 4-(2-cyanothien-5-ylethynyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one (0.06 g, 18%). This was combined with product (0.017 g) obtained in a second, similar reaction and was triturated from dichloromethane-hexanes to provide a white solid, mp 106°-107° C. Anal. (C25H25NO3S.0.5 H2O) calcd: C, 70.07; H, 6.11; N, 3.27; found: C, 70.15; H, 5.84; N, 3.32.

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynyl-cyclohexan-1-one | 0.7 mmol, 0.22 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#C | C20H24O3
reactant | 2-bromo-5-cyanothiophene | 0.7 mmol, 0.13 g | BrC=1SC(=CC1)C#N | C5H2BrNS
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.034 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.007 g | [Cu]I
product | 4-(2-cyanothien-5-ylethynyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one | 0.06 g, 18% | C(#N)C=1SC(=CC1)C#CC1(CCC(CC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C25H25NO3S
